US04035386
63 G. of p-toluenesulfonic acid and 1,800 ml. of o-xylene are heated to boiling and the water present is distilled. The solution is reacted with 90 g. of 10-[3-(dimethylamino)-1-propyl]-8-chloro-10,11-dihydro-dibenzo[b,f]thiepin-10-ol. The reaction mixture is maintained at the boiling temperature for 45 minutes, whereby the remaining water is distilled. The mixture is cooled and poured into 90 ml. of 2N aqueous sodium hydroxide. The aqueous phase is extracted with ether. The resulting organic phase is washed three times with water and subsequently extracted three times with aqueous methanesulfonic acid. The aqueous phase is washed with water and made alkaline with concentrated sodium hydroxide. The reaction mixture is then extracted with ether, and the ether extract washed with water, dried and evaporated, whereby there is obtained N,N-dimethyl-3-(8-chloro-dibenzo[b,f]thiepin-10-yl)-2-propynylamine, which after recrystallization from hexane, has a melting point of 118°-120°. The maleate is precipitated from ethanol and melts at 178°-180°.

reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 10-[3-(dimethylamino)-1-propyl]-8-chloro-10,11-dihydro-dibenzo[b,f]thiepin-10-ol | CN(CCCC1(CC2=C(SC3=C1C=C(C=C3)Cl)C=CC=C2)O)C | C19H22ClNOS
solvent | o-xylene | CC=1C=CC=CC1C | C8H10
product | N,N-dimethyl-3-(8-chloro-dibenzo[b,f]thiepin-10-yl)-2-propynylamine | CN(C)CC#CC1=CC2=C(SC3=C1C=C(C=C3)Cl)C=CC=C2 | C19H16ClNS
